US07141669B2
Preparation of 6-Benzyl-3-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-2,6-dihydropyrazolo[3,4-c]pyridin-7-one (I-1A)
A mixture of 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylic acid (2,2-diethoxyethyl)-amide (I-1A-1a; 528 mg, 0.92 mmol) and p-toluenesulfonic acid monohydrate (175 mg, 0.92 mmol) in toluene (5 ml) was heated to reflux in round bottom flask fitted with a Dean-Stark condenser. After 1 hour, the reaction was cooled to room temperature, and then extracted from saturated aqueous sodium bicarbonate with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), a concentrated, in vacuo. The crude material (0.49 g) was purified on a Biotage™ Flash 40S column using 10–20–40% ethyl acetate in hexanes as eluant to afford I-1A-1b as a solid (69 mg, 16%): +ES MS (M+1) 480.1; 1H NMR (500 MHz, CD2Cl2) δ 7.50 (d, J=1.5 Hz, 1H), 7.48 (d, J=8.3 Hz, 1H), 7.42 (dd, J=8.3, 2.1 Hz, 1H), 7.38–7.27 (m, 7H), 7.18 (d, J=8.7 Hz, 2H), 6.95 (d, J=7.5 Hz, 1H), 6.42 (d, J=7.5 Hz, 1H), 5.21 (s, 2H).

reactant | 5-(4-chlorophenyl)-1-(2,4-dichlorophenyl)-1H-pyrazole-3-carboxylic acid (2,2-diethoxyethyl)-amide | 0.92 mmol, 528 mg | C(C)OC(CNC(=O)C1=NN(C(=C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)OCC | C22H22Cl3N3O3
reactant | p-toluenesulfonic acid monohydrate | 0.92 mmol, 175 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Benzyl-3-(4-chlorophenyl)-2-(2,4-dichlorophenyl)-2,6-dihydropyrazolo[3,4-c]pyridin-7-one | 69 mg, 16% | C(C1=CC=CC=C1)N1C(C=2C(C=C1)=C(N(N2)C2=C(C=C(C=C2)Cl)Cl)C2=CC=C(C=C2)Cl)=O | C25H16Cl3N3O
